US08084623B2
tert-Butyllithium (1.7 M in pentane, 8.9 mL, 15.10 mmol) was added at −78° C., under nitrogen atmosphere to a solution of 5-bromo-1-triisopropylsilanyl-1H-indole (2.42 g, 6.86 mmol) in THF (25 mL). The resulting pale yellow solution was stirred at −78° C. for 15 minutes, then a solution of 3-formyl-3-phenyl-pyrrolidine-1-carboxylic acid methyl ester (1.60 g, 6.86 mmol) in THF (5 mL) was then slowly added. The reaction mixture was stirred at −78° C. for 30 minutes and then warmed to room temperature over a period of 1 hour. The reaction was quenched by addition of a saturated aqueous solution of NH4Cl and diluted with water. The resulting mixture was extracted with EtOAc, and the combined organic extracts were dried over MgSO4, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography (10% to 50% of EtOAc in hexane) to give 1.76 g (51% yield) of 3-[hydroxy-(1-triisopropylsilanyl-1H-indol-5-yl)-methyl]-3-phenyl-pyrrolidine-1-carboxylic acid methyl ester as a white foamy solid.

reactant | tert-Butyllithium | 15.10 mmol, 1.7 M, 8.9 mL | C(C)(C)(C)[Li]
reactant | 5-bromo-1-triisopropylsilanyl-1H-indole | 6.86 mmol, 2.42 g | BrC=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C | C17H26BrNSi
reactant | 3-formyl-3-phenyl-pyrrolidine-1-carboxylic acid methyl ester | 6.86 mmol, 1.60 g | COC(=O)N1CC(CC1)(C1=CC=CC=C1)C=O | C13H15NO3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[hydroxy-(1-triisopropylsilanyl-1H-indol-5-yl)-methyl]-3-phenyl-pyrrolidine-1-carboxylic acid methyl ester | 1.76 g, 51% yield | COC(=O)N1CC(CC1)(C1=CC=CC=C1)C(C=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)O | C30H42N2O3Si
